US07402672B2
1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide, Ia-29
Treat 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide Ia-33 (1.0 equiv) in DMF with dimethylsulfate (1.5 equiv) as described in General Synthetic Procedure V to provide Ia-29 as an ivory colored solid, MS Obs 298.09 (M+1).

reactant | 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide | CNC(=O)C1=C(C2=NC=CC=C2N1)SC1=CC=CC=C1 | C15H13N3OS
reactant | dimethylsulfate | 1.5 equiv | COS(=O)(=O)OC | C2H6O4S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Methyl-3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid methylamide | CNC(=O)C1=C(C2=NC=CC=C2N1C)SC1=CC=CC=C1 | C16H15N3OS
